US06699887B2
To 28.7 ml of anhydrous N,N-dimethylformamide at 0° C. were added slowly 80.7 ml of phosphorus oxychloride then 15.6 g of 2-ethyl-5-methyl-2H-pyrazol-3-ol. The mixture was stirred under nitrogen at 80° C. for 1 hour, poured into 700 ml of water at 0° C. then extracted six times with 350 ml of diethyl ether. The combined extracts were dried over magnesium sulphate, filtered and evaporated to leave 9.3 g of 5-chloro-1-ethyl-3-methyl-1H-pyrazole-4-carbaldehyde as an orange liquid which was used without further purification.

reactant | N,N-dimethylformamide | 28.7 ml | CN(C=O)C | C3H7NO
reactant | phosphorus oxychloride | 80.7 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-ethyl-5-methyl-2H-pyrazol-3-ol | 15.6 g | C(C)N1N=C(C=C1O)C | C6H10N2O
solvent | water | 700 ml | O | H2O
product | 5-chloro-1-ethyl-3-methyl-1H-pyrazole-4-carbaldehyde | 9.3 g | ClC1=C(C(=NN1CC)C)C=O | C7H9ClN2O
